US05006531
1'-Phenylmethyl-5,6-dihydrospiro[1H-indolo[3,2-c]-quinoline-6,4'-piperidine]
To a mixture prepared from 7.6 g of 2-(2-aminophenyl)indole, 2.5 ml of acetic acid and 90 ml of ethanol was added 7.4 ml of 1-phenylmethyl-4-piperidone. The resultant solution was refluxed for 6 hours. Concentration gave a solid/gum mixture which was taken up in EtOH and treated with dilute NH4OH. Filtration gave 12.45 g of yellow solid. This was recrystallized from CH3OH/H2O to give 9.0 g of yellow solid. High vacuum drying (90°) gave 2.6 g of dark yellow solid, m.p. 155°-157° C.

reactant | 2-(2-aminophenyl)indole | 7.6 g | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | 1-phenylmethyl-4-piperidone | 7.4 ml | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | NH4OH | [NH4+].[OH-]
solvent | EtOH | CCO | C2H6O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 1'-Phenylmethyl-5,6-dihydrospiro[1H-indolo[3,2-c]-quinoline-6,4'-piperidine] | 12.45 g | C1(=CC=CC=C1)CN1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C26H25N3
